US09314468B2
Preparation of 2-(3-(4-((methyl(5,6,7,8-tetrahydroquinolin-8-yl)amino)-methyl)-1H-1,2,3-triazol-1-yl)propyl)isoindoline-1,3-dione (AH).
A solution of 1-(3-(1,3-dioxoisoindolin-2-yl)propyl)-1H-1,2,3-triazole-4-carbaldehyde, 22, (0.24 g, 0.84 mmol), N-methyl-N-(prop-2-ynyl)-5,6,7,8-tetrahydroquinolin-8-amine, 5, (0.17 g, 1.01 mmol), sodium triacetoxyborohydride (0.27 g, 1.26 mmol) and a catalytic amount of acetic acid (2 drops) in 1,2-dichloroethane (10 mL) was warmed to 65° C. and stirred at this temperature for 24 h. The reaction mixture was cooled to room temperature. A saturated aqueous solution of sodium bicarbonate was added. The product was extracted with dichloromethane. The combined organic layers were dried over potassium carbonate, filtered and concentrated. The crude product was purified by silica gel chromatography (0-5% methanol/CH2Cl2) to afford 0.19 g (80% yield) of the desired product, AH: 1H NMR (400 MHz, CDCl3) δ 8.45 (d, J=4.4 Hz, 1H), 7.79-7.76 (m, 2H), 7.71 (s, 1H), 7.68-7.65 (m, 2H), 7.30 (d, J=7.6 Hz, 1H), 7.00 (dd, J=4.8, 8.0 Hz, 1H), 4.32 (dt, J=3.2, 7.2 Hz, 2H), 3.91 (dd, J=6.0, 9.2 Hz, 1H), 3.77-3.66 (m, 4H), 2.82-2.70 (m, 1H), 2.70-2.60 (m, 1H), 2.29 (s, 3H), 2.29-2.23 (m, 2H), 2.12-2.02 (m, 1H), 2.02-1.92 (m, 1H), 1.92-1.80 (m, 1H), 1.70-1.56 (m, 1H); ESI+ MS: m/z (rel intensity) 431.2 (100, [M+H]+).

reactant | 1-(3-(1,3-dioxoisoindolin-2-yl)propyl)-1H-1,2,3-triazole-4-carbaldehyde | O=C1N(C(C2=CC=CC=C12)=O)CCCN1N=NC(=C1)C=O | C14H12N4O3
reactant | N-methyl-N-(prop-2-ynyl)-5,6,7,8-tetrahydroquinolin-8-amine | 0.84 mmol, 0.24 g | CN(C1CCCC=2C=CC=NC12)CC#C | C13H16N2
reactant | sodium triacetoxyborohydride | 1.01 mmol, 0.17 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
catalyst | acetic acid | 2 drops | C(C)(=O)O | C2H4O2
solvent | 1,2-dichloroethane | 10 mL | ClCCCl | C2H4Cl2
product | 2-(3-(4-((methyl(5,6,7,8-tetrahydroquinolin-8-yl)amino)-methyl)-1H-1,2,3-triazol-1-yl)propyl)isoindoline-1,3-dione | 0.19 g, 80% yield | CN(C1CCCC=2C=CC=NC12)CC=1N=NN(C1)CCCN1C(C2=CC=CC=C2C1=O)=O | C24H26N6O2
